US04593039
Step A: Preparation of 3-Amino-5-(2-amino-1-ethylamino)-1,2,4-triazine, (16)
To a slurry of 3-amino-5-ethoxy-1,2,4-triazine (1.40 g, 0.0100 mol) in xylene (5 ml) was added ethylenediamine (1.00 ml, 0.0150 mol). The mixture was stirred at 120° C. for 3.5 hours, cooled, and concentrated to dryness in vacuo. The residue was stirred under ether, filtered off, and dried to give the title product, 16, (1.47 g, 95%, m.p. 186°-191° C.). TLC (20% methanol/chloroform/ammonia, silica): Rf =0.14.

reactant | 3-amino-5-ethoxy-1,2,4-triazine | 0.0100 mol, 1.40 g | NC=1N=NC=C(N1)OCC | C5H8N4O
reactant | ethylenediamine | 0.0150 mol, 1.00 ml | C(CN)N | C2H8N2
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Amino-5-(2-amino-1-ethylamino)-1,2,4-triazine | NC=1N=NC=C(N1)NCCN | C5H10N6
